US06465507B2
4-Hydroxyethyl-2-oxindole (5 g, 28.2 mmol) was dissolved in 20 mL of chlorosulfonic acid with stirring at room temperature. After 30 min, the reaction mixture was slowly added to ice water (300 mL) with stirring. The solid was filtered and dried to afford 1.9 g (28%) of 6,6-dioxo-3,6,8,9-tetrahydro-1H-7-oxa-6λ6-thia-3-aza-cyclopenta[α]naphthalen-2-one as a white powder.

reactant | 4-Hydroxyethyl-2-oxindole | 28.2 mmol, 5 g | OCCC1=C2CC(NC2=CC=C1)=O | C10H11NO2
reactant | chlorosulfonic acid | 20 mL | ClS(=O)(=O)O | ClHO3S
product | 6,6-dioxo-3,6,8,9-tetrahydro-1H-7-oxa-6λ6-thia-3-aza-cyclopenta[α]naphthalen-2-one | 1.9 g, 28% | O=S1(C2=CC=C3C(=C2CCO1)CC(N3)=O)=O | C10H9NO4S
